*Infineon (International Rectifier)Photo-Voltaic Isolator
* Tom Hajjar 1/14/19
* Recovered from old Turbo-Spice library from 1997
*10 DIODE ARRAY
*               + - + -
.SUBCKT PVI5050 2 3 5 8
VM  1 3 DC 0
DL  2 1 LED
F1  8 5 VM .0014
R1  5 9 30K
D1  9 10 DNOM
D2  10 11 DNOM
D3  11 12 DNOM
D4  12 13 DNOM
D5  13 14 DNOM
D6  14 15 DNOM
D7  15 16 DNOM
D8  16 17 DNOM
D9  17 18 DNOM
D10 18 8  DNOM
R2  5 8 100MEG
C1  5 8 100PF
C2  2 8  1PF
.MODEL LED D(IS=2.5E-12 RS=.75 CJO=3.5E-11 N=2)
.MODEL DNOM D(IS=100E-16 RS=1)
.ENDS

*INTERNATIONAL RECTIFIER PHOTO VOLTAIC ISOLATOR
*TWO 10 DIODE ARRAYS IN SERIES
*               + - + -
.SUBCKT PVI1050 2 3 5 6
VM  1 3 DC 0
DL  2 1 LED
F1  8 5 VM .00075
R1  5 9 30K
D1  9 10 DNOM
D2  10 11 DNOM
D3  11 12 DNOM
D4  12 13 DNOM
D5  13 14 DNOM
D6  14 15 DNOM
D7  15 16 DNOM
D8  16 17 DNOM
D9  17 18 DNOM
D10 18 8  DNOM
R2  5 8 100MEG
C1  5 8 100PF
C2  2 8  1PF
F2 6 8 VM .00075
R3 8 19 30K
D11  19 20 DNOM
D12  20 21 DNOM
D13  21 22 DNOM
D14  22 23 DNOM
D15  23 24 DNOM
D16  24 25 DNOM
D17  25 26 DNOM
D18  26 27 DNOM
D19  27 28 DNOM
D20  28 6  DNOM
R4  8 6 100MEG
C3  8 6 100PF
C4  2 6  1PF
.MODEL LED D(IS=2.5E-12 RS=.75 CJO=3.5E-11 N=2)
.MODEL DNOM D(IS=100E-16 RS=7)
.ENDS