* VOM1271T PV MOSFET Driver with built-in turn-off SPICE MODEL
*							LED ANODE
*							| LED Kathode
*							| |- Current output
*							| |  | 	  + Current output
*							| |  | 	  |

.SUBCKT VOM1271T            A K -out +out
XU1 A K 0 N001 VO1263
XU2 +out N001 +out 0 I-FAST_TOFF

.SUBCKT	I-FAST_TOFF	Iin	Iout NC2 NC1
V1 Iin Iout 0
W1 NC1 NC2 V1 W1
.model W1 CSW(Ron=100K Roff=10Meg IT=1uA)
.ENDS

.SUBCKT VO1263		A K -Iout +Iout
XU1 A K N001 K IRLED1
XU2 N001 K -Iout +Iout GAIN-MOD
R1 -Iout +Iout 1Meg
* Zout of driver
.ENDS


.SUBCKT IRLED1				1 2 3 4
F1 4 3 V1 1
V1 5 2 0
D1 1 5 D1
.model D1 D(IS=1P N=1.948621 RS=1.560495 BV=6 IBV=10U CJO=18.8P VJ=0.532794 M=0.27985 EG=1.424 TT=500N)
.ends

.SUBCKT GAIN-MOD        +Iin -Iin -Iout +Iout
F1 -Iout +Iout V1 0.001
*current gain of driver
V1 +Iin -Iin 0
.backanno
.ends
**==================================================================*
* Note:
* Although models can be a useful tool in evaluating device performance,
* they cannot model exact device performance under all conditions, nor
* are they intended to replace breadboarding for final verification.
* Models provided by VISHAY Semiconductors GmbH (“Vishay”) do not represent
* all of the specifications and operating characteristics of the product to
* which the model relates. The models attempt to describe the characteristics
* of typical products. The current data sheet information for a given
* product represents the final design guideline and includes actual
* performance specifications. The accuracy, reliability and compatibility
* of models provided by Vishay are not guaranteed or warranted in any way
* and Vishay disclaims liability of any kind whatsoever, including, without
* limitation, liability for quality, performance, merchantability and fitness
* for a particular purpose arising out of the use, or inability to use a model.
* Vishay reserves the right to change models without prior notice.
* The products described herein, including the model and any results produced
* using the model, are subject to the specific disclaimers set forth at www.vishay.com/doc?91000.
**===================================================================
